Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old female with history of asthma 
presenting with increasing dyspnea and cough. Patient had a 
recent 6 week visit to ___ and ___ there was diagnosed 
with a UTI. She was started on cipro on ___ for a 7 day 
course, which was then re-prescribed 2 days ago for another 5 
day course. Patient also saw a gynecologist ___ ___ on 
___ and was noted to have tampon ___ place that had been left ___ 
for 3 weeks. Tampon was removed and she was started on 
metronidazole at that time. On ___, she also noted onset of 
chills and shakes and went to ER ___ ___ on ___ and was 
discharged on same day. She flew home overnight on ___ and went 
to ER ___ ___ upon landing. At that time, she also c/o 
dyspnea. She was treated for dehydration and migraine with no 
imaging. On ___, she began to have increased dyspnea and cough. 
She was picked up ___ ___ because unable to fly and driven 
directly to ___, where CTA chest was performed and 
revealed small L lower lobe filling defect thought to be more 
consistent with chronic narrowing or chronic thrombus than acute 
PE, hilar adenopathy, as well as patchy infiltrates, lower lobe 
predominant, L>R, with associated effusions, c/f multifocal PNA. 


Labs from OSH notable for AST 61, ALT 113, trop negative, INR 
1.28, influenza negative. Treated with nebs, ceftriaxone, 
azithromycin. Sent here for ? PNA vs PE vs sarcoid.
 
Past Medical History:
-Migraines
-Asthma
-Atopic dermatitis
 
Social History:
___
Family History:
-Mother: thyroid cancer
-Father: CAD (MI at age ___
-Maternal aunt: colorectal cancer
-___ grandmother: lung cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS 98.4, 110/61, 88, 16, 98% on 1.5L NC
GENERAL: sitting comfortably ___ bed, ___ NAD 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM with white patch present across surface of tongue, good 
dentition  
NECK: nontender supple neck, palpable submandibular 
lymphadenopathy  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: bilateral crackles, loudest at the bases. normal work of 
breathing
ABDOMEN: nondistended, +BS, nontender ___ all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: AOx3, CN II-XII intact  
SKIN: several ~2cm round erythematous macular lesions present 
bilaterally on lower legs. Small erythematous papules <1cm 
present across abdomen and chest

DISCHARGE PHYSICAL EXAM
=======================
Objective:  
VS - Tmax 98.8 Tc 97.6 HR 58 BP 107/59 RR 18 97% 02 sat on RA  
General: well appearing, NAD  
HEENT: sclera anicteric, PERRL, pearly grey tympanic membranes 
bilaterally, MMM with white patch across surface of tongue, 
oropharynx clear, EOMI  
Neck: supple, no JVD, palpable submandibular lymphadenopathy
CV: regular rate and rhythm, no murmurs/rubs/gallops 
Lungs: diminished breath sounds at the bases, otherwise clear to 
auscultation bilaterally, normal work of breathing without use 
of accessory muscles
Abdomen: +BS, soft, nontender, nondistended, no HSM appreciated  

GU: no Foley  
Ext: warm and well perfused, 2+ pulses, no edema. 
Neuro: AOx3, CNII-XII intact. Sensation intact with ___ strength 
throughout, Romberg negative

 
Pertinent Results:
ADMISSION LABS
==============
___ 03:30AM BLOOD WBC-8.9 RBC-3.66* Hgb-12.0 Hct-35.2 
MCV-96 MCH-32.8* MCHC-34.1 RDW-12.0 RDWSD-42.0 Plt ___
___ 03:30AM BLOOD Neuts-88.6* Lymphs-4.4* Monos-5.2 Eos-1.3 
Baso-0.2 Im ___ AbsNeut-7.88* AbsLymp-0.39* AbsMono-0.46 
AbsEos-0.12 AbsBaso-0.02
___ 03:30AM BLOOD Plt ___
___ 03:30AM BLOOD ___ PTT-25.1 ___
___ 03:30AM BLOOD Glucose-106* UreaN-6 Creat-0.6 Na-137 
K-4.2 Cl-105 HCO3-22 AnGap-14
___ 03:30AM BLOOD ALT-111* AST-45* AlkPhos-97 TotBili-0.2
___ 09:45PM BLOOD Calcium-8.4 Phos-2.1* Mg-2.1
___ 03:30AM BLOOD Albumin-3.0*
___ 03:30AM BLOOD D-Dimer-2311*
___ 03:42AM BLOOD Lactate-0.8

PERTINENT LABS
==============
___ 09:45PM BLOOD Parst S-NEGATIVE
___ 09:45PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE HAV Ab-POSITIVE
___ 09:45PM BLOOD HIV Ab-Negative
___ 09:45PM BLOOD HCV Ab-NEGATIVE
___ 07:40AM BLOOD B-GLUCAN-PND
___ 12:55PM BLOOD EBV PCR, QUANTITATIVE, WHOLE BLOOD-PND

DISCHARGE LABS
==============
___ 08:10AM BLOOD WBC-6.2 RBC-3.86* Hgb-12.6 Hct-37.1 
MCV-96 MCH-32.6* MCHC-34.0 RDW-11.9 RDWSD-42.1 Plt ___
___ 08:10AM BLOOD Neuts-43 Bands-2 ___ Monos-6 
Eos-10* Baso-0 Atyps-2* ___ Myelos-0 AbsNeut-2.79 
AbsLymp-2.42 AbsMono-0.37 AbsEos-0.62* AbsBaso-0.00*
___ 08:10AM BLOOD Plt Smr-NORMAL Plt ___
___ 08:10AM BLOOD Glucose-87 UreaN-7 Creat-0.7 Na-138 K-4.0 
Cl-100 HCO3-29 AnGap-13
___ 08:10AM BLOOD ALT-93* AST-90* LD(LDH)-223 AlkPhos-92 
TotBili-0.2
___ 08:10AM BLOOD Calcium-9.0 Phos-3.8 Mg-1.7

MICROBIOLOGY
============
___ 12:55PM BLOOD EBV PCR, QUANTITATIVE, WHOLE BLOOD-Test  
PND 
___  CMV Viral Load (Final ___: CMV DNA PND
___ SPUTUM GRAM STAIN-FINAL
GRAM STAIN (Final ___: 
<10 PMNs and <10 epithelial cells/100X field. 
3+  ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 
3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
FUNGAL CULTURE (Preliminary): NO FUNGUS ISOLATED. 
ACID FAST CULTURE (Preliminary): pending
ACID FAST SMEAR (Final ___: NO ACID FAST BACILLI SEEN ON 
CONCENTRATED SMEAR. 
MTB Direct Amplification (Pending): 
___ Blood (CMV AB) CMV IgG ANTIBODY-FINAL; CMV IgM 
ANTIBODY-FINAL: IgG pos, IgM neg 
___ Blood (Toxo) TOXOPLASMA IgG ANTIBODY-FINAL; 
TOXOPLASMA IgM ANTIBODY-FINAL: negative for IgG and IgM
___ SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; 
ACID FAST CULTURE-PRELIMINARY; ACID FAST SMEAR-PRELIMINARY: 
CONTAMINATED
___ Blood (Toxo) TOXOPLASMA IgG ANTIBODY-PENDING; 
TOXOPLASMA IgM ANTIBODY-PENDING  
___ URINE Legionella Urinary Antigen -negative 
___ URINE URINE CULTURE-no growth
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
___ Blood (Malaria) Malaria Antigen Test-NEGATIVE 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 

IMAGING
=======
___ Imaging CTA CHEST W&W/O C&RECON  
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Diffuse predominately lower lobe airspace opacities and small 
bilateral nonhemorrhagic pleural effusions most consistent with 
multifocal pneumonia. 

___ Imaging LIVER OR GALLBLADDER US-UNREAD
IMPRESSION:    
Normal abdominal ultrasound. 

___ Imaging CHEST (PORTABLE AP) 
Severe airspace consolidation is present ___ the mid and lower 
lungs 
bilaterally, and accompanied by moderate pleural effusions.  
Heart size is difficult to assess due to partial obscuration of 
part borders by the airspace disease.  Observed findings may be 
due to clinical history of multifocal pneumonia, and also raise 
the possibility of ARDS ___ the appropriate clinical setting. 

  
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of asthma 
presenting with dyspnea and cough following plane ride home from 
___, s/p CTA from OSH showing multifocal infiltrates, 
hilar adenopathy, and L lower lobe filling defect with repeat 
CTA here suspicious for multifocal pneumonia, without PE. She 
was treated with CAP therapy.

ACTIVE ISSUES
=============

# Community Acquired Pneumonia: Patient had CTA at OSH, which 
showed patchy infiltrates, lower lobe predominant, L>R. Upon 
admission, she continued to have a mildly productive cough, 
though remained afebrile without leukocytosis. Given atypical 
presentation for community-acquired pneumonia and recent travel 
history, a broad infectious workup was initiated. She was found 
to be HIV negative. Urine legionella antigen was negative. Given 
travel history and report of husband with productive cough and 
unexplained weight loss, TB was also on the differential. 

Patient had difficulty producing adequate sputum for acid fast 
stain to rule out TB, and she improved rapidly on CAP treatment. 
Clinical suspicion for TB was low on reevaluation, and a 
definitive rule out was deemed not necessary. On hospital day 3, 
patient was noted to have shift ___ WBC differential from 9.7% 
lymphocytes to 37% with 4% atypicals. This change, ___ 
conjunction with transaminitis, was suspicious for possible 
EBV/CMV infection, so viral loads and serologies were sent and 
were pending at discharge. 

According to CTA read from outside hospital, patient also had 
hilar adenopathy, and there was initially some concern for 
sarcoidosis given erythematous macules on legs, though these 
were more consistent with insect bites, and thus a broader 
sarcoidosis workup was deemed unnecessary. She was treated 
throughout her hospital stay with ceftriaxone and azithromycin 
for presumed community acquired pneumonia. She had marked 
improvement ___ her clinical status with resolution of pulmonary 
rhonchi and was able to wean off of oxygen. She was discharged 
on PO levofloxacin to finish a 7 day antibiotic course for 
community acquired pneumonia. 

# Question of Pulmonary Embolus: CTA from OSH showed L lower 
filling defect thought to be more consistent with chronic 
thrombus or chronic narrowing than acute PE. Patient had 
recently taken a long plane flight, and she had been started on 
Lovenox for possible PE at outside hospital. D-dimer was 
elevaetd ___ setting of severe CAP. Attempts to obtain OSH CTA 
images were unsuccessful, so decision was made on hospital day 3 
to repeat CTA to evaluate for PE given uncertain nature of OSH 
report. Repeat CTA confirmed multifocal infiltrates but showed 
no evidence of PE. This was reviewed with radiology, who 
confirmed no concern for chronic narrowing or need to work-up 
for chronic thromboembolic disease. Pneumonia seemed to be most 
likely etiology for symtoms, and patient was taken off of 
Lovenox. 

# Transaminitis: Patient was noted to have transaminitis on 
admission with ALT 111, AST 45, Alk phos nl with no evidence of 
cholestasis. Etiology of transaminitis was unknown. She had been 
taking acetaminophen for headaches, which may have contributed. 
She had no evidence of viral hepatitis on Hep A, B, and C labs. 
She had a normal RUQ U/S with no evidence of hepatosteatosis. It 
could not be excluded that the illness driving her pneumonia may 
have also led to hepatocellular injury. Finally, given that she 
developed 4% atypicals on smear, EBV/CMV viral loads were sent 
off. Her transaminitis downtrended throughout her stay. 

# Insect bites: On admission, she was noted to have bilateral 
erythematous macular lesions on the lower legs, previously 
pruritic, though had been asymptomatic for the last few days. 
Given associated respiratory condition, there was initial 
suspicion for erythema nodosum due to sarcoidosis. However, 
lesions were not painful, and these were felt to be more 
consistent with insect bites given preceding pruritus. She was 
given sarna lotion for pruritus with resolution of the lesions. 

# UTI/vaginal infection: She was on ciprofloxacin for a UTI 
previously diagnosed ___ ___ followed by metronidazole 
after pelvic exam revealed retained tampon for 3 weeks. She 
continued to have mild discharge on admission with associated 
pruritus and was continued on metronidazole for a full 7 day 
course. Pelvic exam prior to discharge was notable for scant 
vaginal discharge with a normal cervix, and she reported 
improvement ___ her pruritus. 

# Anxiety: She developed significant anxiety following 
admission, asking the team several times if she was dying. She 
was placed on low dose lorazepam prn anxiety and low dose 
trazodone prn sleep. Social work was also consulted, and she 
reported resolution of her anxiety with these interventions and 
upon noticing her clinical improvement. She was encouraged to 
follow-up with PCP and SW and agreed that this would be 
beneficial, as she has been working through challenges ___ her 
marriage. She feels safe at home. 

TRANSITIONAL ISSUES
===================
# Multifocal pneumonia: She is currently on day 4 of CAP therapy 
and will be discharged on PO levofloxacin which she should take 
for 3 additional days to complete a full 7 day course for 
community acquired pneumonia. She will also need a repeat chest 
radiograph ___ 4 weeks to confirm resolution of infiltrates and 
bilateral pleural effusions. 

# Hep B non-immune: She was found to be negative for Hep B 
surface antibody during transaminitis workup. She will need to 
follow up with her primary care provider regarding the need for 
vaccination. 

# Other:
- recommend establishing care with outpatient counselor/social 
work 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ciprofloxacin HCl 500 mg PO Q12H 
2. MetRONIDAZOLE (FLagyl) 500 mg PO TID 
3. Fish Oil (Omega 3) 1000 mg PO BID 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
3. Fish Oil (Omega 3) 1000 mg PO BID 
4. Levofloxacin 500 mg PO Q24H Duration: 3 Days 
RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth once 
daily Disp #*3 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community-acquired pneumonia

 
Discharge Condition:
Discharge condition: stable, improved
Mental status: AOx3
Ambulatory status: ambulates without assist

 
Discharge Instructions:
Dear ___,

You were admitted to ___ on 
___ following worsening shortness of breath, cough, and 
chills. You were placed on antibiotics for a suspected infection 
and given a medication for a possible pulmonary embolism based 
on the CT scan done at ___. During your stay, we did 
a workup for possible viral, bacterial, or parasitic infections 
that could be causing your symptoms, all of which were negative. 
We also did a repeat CT scan, which did not show a pulmonary 
embolus. Your breathing and cough improved on antibiotics, which 
suggested that a bacterial pneumonia was the most likely cause 
of your symptoms. You will be discharged with a prescription for 
oral antibiotics, which you should take for the next three days 
for the pneumonia. 
It was a pleasure taking care of you during your stay. If you 
have any questions or concerns about the quality of care that 
you received, please do not hesitate to ask. 
-Your ___ Care Team
 
Followup Instructions:
___